US08106043B2
N-(4-(2-(Diethylamino)ethyl)-3,4-dihydro-2H-benzo[b][1,4]thiazin-7-yl)thiophene-2-carboximidamide dihydrochloride:
To a stirred solution of N-(4-(2-(diethylamino)ethyl)-3,4-dihydro-2H-benzo[b][1,4]thiazin-7-yl)thiophene-2-carboximidamide (1.149 g, 3.07 mmol) in MeOH (5 mL) was added 1M HCl in ether (15.35 mL, 15.35 mmol) at room temperature. The mixture was stirred for 5 minutes under argon atmosphere and concentrated to give a yellow solid (1.37 g, quantitative). 1H NMR (DMSO-d6) δ 11.24 (s, 2H), 9.68 (s, 1H), 8.69 (s, 1H), 8.15-8.13 (m, 2H), 7.37-7.34 (m, 1H), 7.12-7.00 (m, 3H), 3.88-3.83 (m, 2H), 3.69-3.66 (m, 2H), 3.17-3.10 (m, 8H), 1.25 (t, J=7.2 Hz, 6H); ESI-MS (m/z, %): 377, 375 (MH+, free base, 58), 278, 276 (100); ESI-HRMS calculated for C19H25N4S2 (MH+, free base), calculated: 375.1671, observed: 375.1667; HPLC: 95% by area.

reactant | N-(4-(2-(diethylamino)ethyl)-3,4-dihydro-2H-benzo[b][1,4]thiazin-7-yl)thiophene-2-carboximidamide | 3.07 mmol, 1.149 g | C(C)N(CCN1C2=C(SCC1)C=C(C=C2)NC(=N)C=2SC=CC2)CC | C19H26N4S2
reactant | HCl | 1M | Cl | ClH
reactant | ether | 15.35 mmol, 15.35 mL | CCOCC | C4H10O
solvent | MeOH | 5 mL | CO | CH4O
product | N-(4-(2-(Diethylamino)ethyl)-3,4-dihydro-2H-benzo[b][1,4]thiazin-7-yl)thiophene-2-carboximidamide dihydrochloride | Cl.Cl.C(C)N(CCN1C2=C(SCC1)C=C(C=C2)NC(=N)C=2SC=CC2)CC | InChI=1S/C19H26N4S2.2ClH/c1-3-22(4-2)9-10-23-11-13-25-18-14-15(7-8-16(18)23)21-19(20)17-6-5-12-24-17;;/h5-8,12,14H,3-4,9-11,13H2,1-2H3,(H2,20,21);2*1H
